datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](#[C:9][C:10]([H:12])[H:13])[H:11]>>[C:0](=[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])([H:4])[C:10]([C:9]#[C:8][H:11])([H:12])[H:13],32.0913
[C:0]1([H:7])[C:1]([H:8])=[C:2]([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]([H:12])=[C:6]1[H:13]>>[C:0]12([H:7])[C:1]([H:8])[C:2]1([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]([H:12])=[C:6]2[H:13],182.004
[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[Cl:9]>>[C:0]([C:1]([O:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][Cl:9],-0.374151
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10](=[C:11][S:12][H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:11](=[C:10]([H:13])[H:14])[S:12][H:15],-20.5016
[C:0]([C:1]([N:2]([H:8])[H:9])([H:6])[H:7])([H:3])([H:4])[H:5].[C:10]([H:11])([H:12])[H:13]>>[C:0]([C:1]([N:2]([H:8])[H:9])[H:7])([H:3])([H:4])[H:5].[H:6][C:10]([H:11])([H:12])[H:13],33.099624
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12](=[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:14]([C:13](=[C:12]([H:17])[H:18])[H:19])([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25],45.6056
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([C:22]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:26])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([C:22]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])[H:27])([H:23])([H:24])[H:25],74.0568
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([S:9][H:13])([H:10])([H:11])[H:12]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[S:9][C:8]([H:10])([H:11])[H:12])([H:3])[H:4].[H:13],29.7064
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5](=[C:6]([C:7]([H:17])([H:18])[H:19])[C:8]#[C:9][H:20])[H:16])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([C:6]([C:7]([H:17])([H:18])[H:19])[C:8]#[C:9][H:20])[H:16])[H:10],82.0901
[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[O:6]>>[C:0](=[C:1]=[O:2])([H:4])[H:5].[H:3][O:6],0.0
[C:0](#[C:1][H:3])[H:2].[C:4](=[C:5]([c:6]1[c:7]([H:14])[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]1[H:18])[H:13])[H:12]>>[C:0](=[C:1][H:3])([H:2])[C:4](=[C:5]([c:6]1[c:7]([H:14])[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]1[H:18])[H:13])[H:12],28.267104
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16]([C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:16]([C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20],72.8016
[C:0]([N:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[O:9][H:10]>>[C:0](=[N:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][O:9][H:10],-4.987328
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])[C:14](=[C:15]([H:23])[H:24])[H:22])[H:18])([H:16])[H:17]>>[C:0](=[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:6])[C:12]([C:11](=[C:10]([H:16])[H:17])[H:18])([C:13]([H:19])([H:20])[H:21])[C:14](=[C:15]([H:23])[H:24])[H:22])([H:4])[H:5],76.6927
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([O:5][O:6][H:17])[H:9])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:9])[O:5]1.[O:6][H:17],44.7688
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([C:12]([C:13]([O:14][O:15])([H:21])[H:22])([H:19])[H:20])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][O:15][O:14][C:13]([C:12]([C:11]([H:16])([H:17])[H:18])([H:19])[H:20])([H:21])[H:22],71.128
[C:0](=[C:1]1[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])=[C:5]1[H:11])([H:6])[H:7].[C:12]([H:13])([H:14])[H:15]>>[C:0](=[C:1]1[C:2]([H:8])[C:3]([H:9])([C:12]([H:13])([H:14])[H:15])[C:4]([H:10])=[C:5]1[H:11])([H:6])[H:7],8.368
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:30][H:31]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:24][O:30][H:31],-5.129584
